US07906516B2
20.2 g (76.8 mmol) of ethyl [4-(3-oxomorpholin-4-yl)phenyl]acetate are dissolved in a solution of 3.37 g of sodium hydroxide in 40 ml of ethanol, and the reaction solution is stirred at room temperature for 18 hours. The reaction mixture is evaporated, and the residue is dissolved in water and acidified to a pH of 3 using 1N hydrochloric acid. The mixture is extracted with ethyl acetate, and the organic phase is dried over sodium sulfate and evaporated, giving 4-(3-oxomorpholin-4-yl)phenylacetic acid as a yellowish solid; ESI 236.

reactant | ethyl [4-(3-oxomorpholin-4-yl)phenyl]acetate | 76.8 mmol, 20.2 g | O=C1N(CCOC1)C1=CC=C(C=C1)CC(=O)OCC | C14H17NO4
solvent | sodium hydroxide | 3.37 g | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-(3-oxomorpholin-4-yl)phenylacetic acid | O=C1N(CCOC1)C1=CC=C(C=C1)CC(=O)O | C12H13NO4
